US05716624
(b) Preparation of (4,4-dimethylthiochroman-6-yl)acetylene
7.7 g (21.2 mmol) of 2,2-dibromo-1-(4,4-dimethylthiochroman-6-yl)ethylene and 80 ml of THF were introduced into a three-necked flask under a stream of nitrogen. 17 ml (26.6 mmol) of an n-butyllithium solution (2.5M in hexane) were added dropwise at -78° C. and the mixture was permitted to heat to room temperature for one hour. The reaction mixture was poured into water and extracted with ethyl ether. The organic phase was separated by settling, dried over magnesium sulfate and evaporated. The residue obtained was purified by chromatography on a silica column eluted with heptane. 3.9 g (90%) of the expected acetylene derivative were recovered in the form of a yellow oil.

reactant | 2,2-dibromo-1-(4,4-dimethylthiochroman-6-yl)ethylene | 21.2 mmol, 7.7 g | BrC(=CC=1C=C2C(CCSC2=CC1)(C)C)Br | C13H14Br2S
reactant | THF | 80 ml | C1CCOC1 | C4H8O
reactant | n-butyllithium | 26.6 mmol, 2.5M, 17 ml | C(CCC)[Li]
solvent | water | O | H2O
product | (4,4-dimethylthiochroman-6-yl)acetylene | CC1(CCSC2=CC=C(C=C12)C#C)C | C13H14S
